US08168787B2
N-(2-methyl-5-nitrophenyl)-4-(3-pyridinyl)-2-pyrimidine amine 1 (R1═NO2)
Under inert atmosphere, 5 g of sodium salt of the β-oxo-3-pyridinepropanal, with HPLC purity of 99% (A %) and salt content of 25% (residue by calcination), and 8 mL hydrochloric acid in isopropanol in 50 mL toluene is suspended. 3.7 g (2-methyl-5-nitrophenyl)guanidine is added, and the mixture is stirred at room temperature for an hour. The mixture is refluxed for 18 hours, removing the water with a Dean Stark apparatus. Once completed the conversion, the suspension is cooled to 10° C., and the precipitate is filtrated; this is crushed in warm water, yielding, upon filtration and drying, 2.5 g of product with HPLC purity of 96% (A %), identified through GC-MS.

reactant | sodium | 5 g | [Na] | Na
reactant | β-oxo-3-pyridinepropanal | O=C(CC=O)C=1C=NC=CC1 | C8H7NO2
reactant | hydrochloric acid | 8 mL | Cl | ClH
reactant | (2-methyl-5-nitrophenyl)guanidine | 3.7 g | CC1=C(C=C(C=C1)[N+](=O)[O-])NC(=N)N | C8H10N4O2
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2-methyl-5-nitrophenyl)-4-(3-pyridinyl)-2-pyrimidine amine | CC1=C(C=C(C=C1)[N+](=O)[O-])NC1=NC=CC(=N1)C=1C=NC=CC1 | C16H13N5O2
